US04221910
9-(2-HYDROXY-1-PROPYL)HYPOXANTHINE (NPT 15446)
9-(2-Hydroxy-1-propyl)adenine (I, 4.0 g, 20.7 mmol) was suspened in 50% acetic acid (20 ml) and sodium nitrite (4 g, 58 mmol), was slowly added. The mixture was stirred at 25° for 3 hr. The resulting solution was evaporated to dryness and isopropanol added; this operation was repeated once. The solid residue was boiled in isopropanol and filtered. The filtrate was evaporated and crystallized by addition of acetone. Recrystallization was made from iso-propanol/methanol (98:2); a colorless crystalline product was obtained. Yield 3.3 g (82%); M.P. 244°-250°; uv (H2O; pH 5.5), λmax 250 nm.

reactant | 9-(2-Hydroxy-1-propyl)adenine | 20.7 mmol, 4.0 g | OC(CN1C2=NC=NC(=C2N=C1)N)C | C8H11N5O
reactant | sodium nitrite | 58 mmol, 4 g | N(=O)[O-].[Na+]
reactant | H2O | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 9-(2-HYDROXY-1-PROPYL)HYPOXANTHINE | OC(CN1C=2N=CNC(C2N=C1)=O)C | C8H10N4O2
